US06921759B2
Step 1: Preparation of methyl 8-hydroxy-5-oxo-5,6-dihydro-1,6-naphthyridine-7-carboxylate
This compound was prepared as described in M. Suzuki et.al., Synthetic Communications, 1978, pg. 461. To a solution of furo[3,4]pyridine-5,7-dione (130 g, 872 mmol) in anhydrous DMF (250 ml) was added 1 liter of dry THF and methyl isocyanoacetate (86.4 g, 872 mmol). This was stirred for 15 minutes at 40° C. under nitrogen, followed by dropwise addition of DBU (132.8 g, 130.4 ml, 872 mmol) which was dissolved in THF (300 ml). After one hour the solvent was removed under reduced pressure and the resultant crude 2-[4-(methoxycarbonyl)-1,3-oxazol-5-yl]nicotinic acid and regioisomeric 3-[4-(methoxycarbonyl)-1,3-oxazol-5-yl]pyridine-2-carboxylic acid products were taken up into MeOH (1 liter). Concentrated HCl (12 M, 291 ml) was then added dropwise while the solution stirred at 55° C. This was stirred for 0.5 hours at which time the crude solids were collected by vacuum filtration. The desired regioisomer was purified by successive recrystallizations in methanol. This provided pure yellow solids. TLC (silica, 90:10:3, dichloromethane, methanol, acetic acid), R f (desired regioisomer)=0.23, R f (undesired regioisomer)=0.62.

reactant | furo[3,4]pyridine-5,7-dione | 872 mmol, 130 g | N1=CC=CC2=C1C(OC2=O)=O | C7H3NO3
reactant | methyl isocyanoacetate | 872 mmol, 86.4 g | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | DBU | 872 mmol, 130.4 ml, 132.8 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 1 liter | C1CCOC1 | C4H8O
product | methyl 8-hydroxy-5-oxo-5,6-dihydro-1,6-naphthyridine-7-carboxylate | OC1=C(NC(C=2C=CC=NC12)=O)C(=O)OC | C10H8N2O4
